US06812236B2
1-Hexanoyl-3,4-dimethyl-4-(3-vinylphenyl)piperidine
To a stirred solution of 1-hexanoyl-3,4-dimethyl-4-(trifluoromethanesulfonyloxyphenyl)piperidine (Preparation 6, 3.0 g, 6.90 mmol) in tetrahydrofuran (30 mL) at room temperature were added sequentially vinyltributyltin (2.12 mL, 7.24 mmol), lithium chloride (585 mg, 13.8 mmol), and tetrakis(triphenylphosphine)palladium(0) (80 mg, 0.69 mmol). The mixture was heated to reflux under a nitrogen atmosphere for 1½ hours at which time a few crystals of 4-tert-butylcatechol were added. Heating at reflux was then continued for a further 16 hours. The mixture was cooled and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with a gradient of ethyl acetate:hexane (1:10 to 1:3). The title compound was obtained as a clear oil (2.1 g).

reactant | 1-hexanoyl-3,4-dimethyl-4-(trifluoromethanesulfonyloxyphenyl)piperidine | 6.90 mmol, 3.0 g | C(CCCCC)(=O)N1CC(C(CC1)(C1=C(C=CC=C1)OS(=O)(=O)C(F)(F)F)C)C | C20H28F3NO4S
reactant | vinyltributyltin | 7.24 mmol, 2.12 mL | C(=C)[Sn](CCCC)(CCCC)CCCC
reactant | lithium chloride | 13.8 mmol, 585 mg | [Cl-].[Li+]
reactant | 4-tert-butylcatechol | C(C)(C)(C)C=1C=C(C(O)=CC1)O | C10H14O2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.69 mmol, 80 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-Hexanoyl-3,4-dimethyl-4-(3-vinylphenyl)piperidine | C(CCCCC)(=O)N1CC(C(CC1)(C1=CC(=CC=C1)C=C)C)C | C21H31NO
